US08865896B2
6-Amino-2-butoxy-9-{3-[(3-morpholin-4-ylpropyl)amino]propyl}-7,9-dihydro-8H-purine-8-one trihydrochloride
To N-(3-aminopropyl)morpholine (86.90 g, 602.52 mmol) which was cooled to 3° C. was in several times added 3-(6-amino-2-butoxy-8-methoxy-9H-purin-9-yl)propyl methanesulfonate (amount corresponding to dried weight 15.00 g (40.17 mmol)) not to exceed to 20° C. After stirring at 28° C. for 10 hours, thereto was added 15% brine (160.00 g), and the mixture was extracted with a mixture of toluene (194.08 g) and THF (199.8 g). After removal of the organic solvent, concentrated hydrochloric acid (41.84 g) was added thereto, and the mixture was stirred at 25° C. for 3 hours. After removal by distillation of the solvent, to the residue was added methanol (118.65 g), followed by raising to 55° C. Isopropanol (353.25 g) was dropped thereto and the mixture was crystallized and further raised to 70° C. After one hour, the mixture was cooled to 20° C. The resulting crystal was filtered, washed and dried to give the subject compound (16.80 g, 77.5% by 2 steps). Purity: 99.70% (HPLC)

reactant | N-(3-aminopropyl)morpholine | 602.52 mmol, 86.90 g | NCCCN1CCOCC1 | C7H16N2O
reactant | 3-(6-amino-2-butoxy-8-methoxy-9H-purin-9-yl)propyl methanesulfonate | 40.17 mmol, 15.00 g | CS(=O)(=O)OCCCN1C2=NC(=NC(=C2N=C1OC)N)OCCCC | C14H23N5O5S
reactant | brine | 160.00 g | [Cl-].[Na+].O
product | 6-Amino-2-butoxy-9-{3-[(3-morpholin-4-ylpropyl)amino]propyl}-7,9-dihydro-8H-purine-8-one trihydrochloride | Cl.Cl.Cl.NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCNCCCN1CCOCC1)=O | InChI=1S/C19H33N7O3.3ClH/c1-2-3-12-29-18-23-16(20)15-17(24-18)26(19(27)22-15)9-5-7-21-6-4-8-25-10-13-28-14-11-25;;;/h21H,2-14H2,1H3,(H,22,27)(H2,20,23,24);3*1H
